US04639441
p-Nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]acetate
Following the procedure of Preparation 3, but using p-nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-chloroacetate (1.272 g), sodium iodide (379 mg) and sodium cyanoborohydride (314 mg) and purifying the crude product by silica gel column chromatography eluted with a 10:1 by the volume mixture of benzene and ethyl acetate, there were obtained 785 mg of the desired compound.

reactant | p-nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]-2-chloroacetate | 1.272 g | [Si](C)(C)(C(C)(C)C)OC(C)C1C(N(C1SC)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])Cl)=O | C21H31ClN2O6SSi
reactant | sodium iodide | 379 mg | [I-].[Na+]
reactant | sodium cyanoborohydride | 314 mg | C(#N)[BH3-].[Na+]
product | p-Nitrobenzyl 2-[3-(1-t-butyldimethylsilyloxyethyl)-4-methylthio-2-azetidinon-1-yl]acetate | 785 mg | [Si](C)(C)(C(C)(C)C)OC(C)C1C(N(C1SC)CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C21H32N2O6SSi
